US04133885
To a suspension of 5,7-diethyl-1,8-naphthyridin-2(1H)-one (4.04 g., 0.02 mole) in 25 ml. of dry dimethylformamide under nitrogen atmosphere is added a 57% suspension of sodium hydride in mineral oil (0.84 g., 0.02 mole). This mixture is stirred at room temperature for 0.5 hours. Then a mixture of 2-dimethylaminoethyl chloride hydrochloride (3.17 g., 0.022 mole) and a 57% suspension of sodium hydride in mineral oil (0.93 g., 0.022 mole) in 25 ml. of dry dimethylformamide is added to the above suspension. The mixture is stirred at steam bath temperature overnight (16 hours). After the mixture is cooled to room temperature it is filtered to remove salt (2.6 g., theory 2.45 g.). Removal of the solvent under reduced pressure gives a pale tan waxy solid (4.8 g.). Several recrystalizations from hexane gives 1-(2-dimethylaminoethyl)-5,7-diethyl-1,8-naphthyridin-2(1H)-one melting at 59.5°-61° C.

reactant | 5,7-diethyl-1,8-naphthyridin-2(1H)-one | 0.02 mole, 4.04 g | C(C)C1=C2C=CC(NC2=NC(=C1)CC)=O | C12H14N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.022 mole, 3.17 g | Cl.CN(CCCl)C
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-dimethylaminoethyl)-5,7-diethyl-1,8-naphthyridin-2(1H)-one | CN(CCN1C(C=CC2=C(C=C(N=C12)CC)CC)=O)C | C16H23N3O
